US04056536
To 9-carbamoyl-11H-pyrrolo[2,1-b] [3]-benzazepin-11-one (27 g., 0.112 moles) in 300 ml. of 50% sulfuric acid maintained at 50° C. is added slowly 25 g. of sodium nitrite in 75 ml. of water. At the end of the addition, the solid is filtered, washed with water and air-dried to yield 9-carboxy-11H-pyrrolo[2,1-b] [3]benzazepin-11-one.

reactant | 9-carbamoyl-11H-pyrrolo[2,1-b] [3]-benzazepin-11-one | 0.112 moles, 27 g | C(N)(=O)C1=CC2=C(C=CN3C(C2=O)=CC=C3)C=C1 | C14H10N2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 9-carboxy-11H-pyrrolo[2,1-b] [3]benzazepin-11-one | C(=O)(O)C1=CC2=C(C=CN3C(C2=O)=CC=C3)C=C1 | C14H9NO3
